US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-4-chloro-2-propyl-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-propyl-1H-indole-5-carbonitrile and 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine: 1H NMR (400 MHz, DMSO-d6) δ 9.03 (d, J=1.3 Hz, 1H), 8.94 (d, J=2.0 Hz, 1H), 8.46 (s, 1H), 7.97 (s, 1H), 7.81 (d, J=8.5 Hz, 1H), 7.61 (d, J=8.5 Hz, 1H), 5.96 (s, 2H), 2.95-2.87 (m, 2H), 1.75-1.48 (m, 2H), 0.93 (t, J=7.3 Hz, 3H); MS (ES) m/z 457 (M+1).

reactant | 4-chloro-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)CCC | C12H11ClN2
reactant | 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine | BrC=1C=NC=C(C1)C=1OC(=NN1)CCl | C8H5BrClN3O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-4-chloro-2-propyl-1H-indole-5-carbonitrile | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)Cl)CCC | C20H15BrClN5O
